US06255326B1
A stirred solution of 3-hydroxy-4-methoxy-benzaldehyde (5.74 g) in dry dimethylformamide (50 mL) is treated with cyclopentylmethyl bromide (7.34 g) and potassium carbonate (15 g), and the solution is heated at 60° C. for 24 hours. After cooling and filtration, the solution is evaporated to low bulk and dissolved in ethyl acetate (100 mL). The organic solution is washed with aqueous sodium hydroxide solution (4×50 mL; 2 N) and water (2×50 mL), dried over magnesium sulfate, and evaporated to give 3-cyclopentylmethoxy-4-methoxybenzaldehyde (6.5 g) in the form of a light brown oil.

reactant | 3-hydroxy-4-methoxy-benzaldehyde | 5.74 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | cyclopentylmethyl bromide | 7.34 g | C1(CCCC1)CBr | C6H11Br
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-cyclopentylmethoxy-4-methoxybenzaldehyde | 6.5 g | C1(CCCC1)COC=1C=C(C=O)C=CC1OC | C14H18O3
